US05011947
1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1-methylethyl)-3-oxo-6,8-nonadienoate
To a solution of 5,5-bis(4-fluorophenyl)-4-(1-methyl-ethyl)-2,4-pentadienal (0.5 g, 1.6 mmol) in 20 mL tetrahydrafuran at -70° C., was added the dianion of t-butyl acetoacetate (2.1 mL of 1M solution in THF, 2.1 mmol) which was prepared by adding t-butyl acetoacetate (4.0 g, 25 mmol) in 4 mL tetrahydrofuran to a suspension of sodium hydride (1.0 g of 50% in oil, 25 mmol) in 6 mL tetrahydrofuran at -10° C., butyl lithium (11.4 mL of 2.2M solution) 25 mL was added and stirred for 0.5 hrs. After stirring for 2.5 hrs. the reaction was quenched with 2N hydrochloric acid. The mixture was extracted with diethyl ether. The extracts were dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with 1% methanol in methylene chloride to give 0.5 g of the title compound as a clear oil. MS(CI): m/e =370 for M3 ;

reactant | 5,5-bis(4-fluorophenyl)-4-(1-methyl-ethyl)-2,4-pentadienal | 1.6 mmol, 0.5 g | FC1=CC=C(C=C1)C(=C(C=CC=O)C(C)C)C1=CC=C(C=C1)F | C20H18F2O
reactant | t-butyl acetoacetate | 2.1 mmol, 1M, 2.1 mL | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | t-butyl acetoacetate | 25 mmol, 4.0 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | sodium hydride | 25 mmol, 1.0 g | [H-].[Na+]
reactant | butyl lithium | 2.2M, 11.4 mL | C(CCC)[Li]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1-methylethyl)-3-oxo-6,8-nonadienoate | 0.5 g | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OC(C)(C)C)=O)O)C(C)C)C1=CC=C(C=C1)F | C28H32F2O4
